US06313094B1
[Process 1] Boc-Pro-NH-tBu
In a DMF solution of 0.50 g of Boc-Pro-OH, 0.24 ml of tert-butylamine, 0.36 g of HOBt and 0.53 g of EDC hydrochloride were added under ice cooling and the mixture was stirred for 14 hr. The reaction mixture was treated similarly to that in Example 28 (Process 2) to give 373 mg of the title compound.

reactant | Boc-Pro-OH | 0.50 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | tert-butylamine | 0.24 ml | C(C)(C)(C)N | C4H11N
reactant | HOBt | 0.36 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 0.53 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Pro-NH-tBu | 373 mg | N1([C@H](C(=O)NC(C)(C)C)CCC1)C(=O)OC(C)(C)C | C14H26N2O3
